US07732609B2
cis-(5-(4-Chlorophenylsulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-4,6-diyl)dimethanol
Prepared by reduction of cis-diethyl 5-(4-chlorophenylsulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-4,6-dicarboxylate using LiBH4 as shown in Example 14.

reactant | cis-diethyl 5-(4-chlorophenylsulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-4,6-dicarboxylate | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C2=C(C[C@H]1C(=O)OCC)NN=C2)C(=O)OCC | C18H20ClN3O6S
reactant | LiBH4 | [Li+].[BH4-]
product | cis-(5-(4-Chlorophenylsulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-4,6-diyl)dimethanol | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C2=C(C[C@H]1CO)NN=C2)CO | C14H16ClN3O4S
